US07713994B2
6-Cyclopentyl-4-methoxymethylene-4H-isoquinoline-1,3-dione
A mixture of 6-cyclopentyl-4H-isoquinoline-1,3-dione (222 mg, 0.97 mmole), 10 mL of acetic acid and trimethylorthoformate (212 mg, 2.0 mmole) is stirred and heated to 90° C. After 2 hours at that temperature the reaction mixture is cooled and the solvents were removed in-vacuo and the residue taken up in 4% methanol in dichloromethane, passed through a short pad of Florisil and eluted with 4% methanol in dichloromethane. The eluate is evaporated and the product is treated with 4:1 hexanes-ethyl acetate and collected by filtration to give a yellow solid, 165 mg, (62%), MS (ES+): m/z 272.2 (M+H).

reactant | 6-cyclopentyl-4H-isoquinoline-1,3-dione | 0.97 mmole, 222 mg | C1(CCCC1)C=1C=C2CC(NC(C2=CC1)=O)=O | C14H15NO2
reactant | trimethylorthoformate | 2.0 mmole, 212 mg | COC(OC)OC | C4H10O3
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 6-Cyclopentyl-4-methoxymethylene-4H-isoquinoline-1,3-dione | C1(CCCC1)C=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C16H17NO3
